US09303023B2
N-(1-(2-Aminoethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide
To a suspension of tert-butyl(2-(4-(5-(m-tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)ethyl)carbamate (4.29 g, 10.426 mmol) in DCM (60 mL), TFA (12 mL, 156.39 mmol) was added at 0° C. After strring for 1 h at rt, the reaction mixture was concentrated. The residue was dissolved in DCM and 2 N aq. NaOH-solution was added. The org. layer was separated and the aq. layer was extracted with DCM (2×). The combined org. layers were dried (MgSO4), filtered and the solvent removed to yield the title compound as a white solid, which was used in the next step without further purification. LC-MS conditions B: tR=0.54 min, [M+H]+=312.31.

reactant | tert-butyl(2-(4-(5-(m-tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)ethyl)carbamate | 10.426 mmol, 4.29 g | C(C)(C)(C)OC(NCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C)=O | C21H25N5O4
reactant | TFA | 156.39 mmol, 12 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(2-Aminoethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | NCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C16H17N5O2
